US03985896
To a solution of 11.9 g. (0.039 mol.) of 3-acetyl-2-(4-hydroxynaphthyl)benzofuran in 400 ml. of 2-butanone was added 100 ml. (0.24 mol.) of 1,2-dibromoethane and 22 g. (0.16 mol.) of anhydrous potassium carbonate. The reaction mixture was refluxed for 8 hours, then the solvent was evaporated and the excess 1,2-dibromoethane was removed by distillation in vacuo. The residue was chromatographed on silica with 10% hexane in methylene chloride as eluant to give 3-acetyl-2-[4-(2-bromoethoxy)naphthyl]benzofuran, m.p. 115°-117°.

reactant | 3-acetyl-2-(4-hydroxynaphthyl)benzofuran | 0.039 mol | C(C)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C1=CC=CC=C21)O | C20H14O3
reactant | 1,2-dibromoethane | 0.24 mol | BrCCBr | C2H4Br2
reactant | potassium carbonate | 0.16 mol | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 3-acetyl-2-[4-(2-bromoethoxy)naphthyl]benzofuran | C(C)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C1=CC=CC=C21)OCCBr | C22H17BrO3
